US09388189B2
(S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-bromo-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-Aminoethyl)-5-bromo-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (0.72 g, 2.16 mol) was treated with 6-chloro-5-iodopyrimidin-4-amine (1.55 g, 4.31 mol), cesium fluoride (0.66 g, 4.34 mol), N,N-diisopropylethylamine (1.88 mL, 10.79 mol) according to Preparation 13. The residue was purified using SP1® Purification System (0% to 70%, hexane-ethyl acetate) to give 0.39 g (32% yield) of the title compound as a solid. Purity 93%.

reactant | (S)-2-(1-Aminoethyl)-5-bromo-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 2.16 mol, 0.72 g | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)Br | C14H13BrN4O
reactant | 6-chloro-5-iodopyrimidin-4-amine | 4.31 mol, 1.55 g | ClC1=C(C(=NC=N1)N)I | C4H3ClIN3
reactant | cesium fluoride | 4.34 mol, 0.66 g | [F-].[Cs+]
reactant | N,N-diisopropylethylamine | 10.79 mol, 1.88 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-bromo-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.39 g, 32% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)Br)I | C18H15BrIN7O
